US05639748
A 35% dispersion of potassium hydride in mineral oil (2.6 g, 23 mmol) in dimethylformamide (40 ml) was stirred and treated with 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-ol (4.0 g, 19 mmol), stirred for 20 minutes, treated with ethyl bromoacetate (3.8 g, 23 mmol) and stirred for 72 hours. The mixture was concentrated, partitioned between water and methylene chloride and the organic phase was washed, dried with magnesium sulfate and concentrated. The residue was chromatographed on silica gel eluted with methanol-methylene chloride (8:92) to give 4.3 g of ethyl [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]acetate.

reactant | potassium hydride | [H-].[K+]
reactant | 9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-ol | 19 mmol, 4.0 g | ClC1=CC=C(C2=C1CCN(CC2)C)O | C11H14ClNO
reactant | ethyl bromoacetate | 23 mmol, 3.8 g | BrCC(=O)OCC | C4H7BrO2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | ethyl [(9-chloro-2,3,4,5-tetrahydro-3-methyl-1H-3-benzazepin-6-yl)oxy]acetate | 4.3 g | ClC1=CC=C(C2=C1CCN(CC2)C)OCC(=O)OCC | C15H20ClNO3
